US06686352B2
g) 2-Bromo-11-methyl-7-(5-methyl-isoxazol-3-yl)-8H-4b,6,10,12-tetraaza-dibenzo[e,g]Azulene
From 10-bromo-5,7-dihydro-2-methyl-6H-pyrimido[5,4-d][1]benzazepin-6-one according to scheme 1, step 7 using N,N-dimethyl-N′-(5-methyl-isoxazol-3-ylmethyl)-formamidine instead of (E)-(dimethylaminomethyleneamino)-acetic acid ethyl ester. Clear gum, m/z (ISP) 407/409 (MH)

reactant | 10-bromo-5,7-dihydro-2-methyl-6H-pyrimido[5,4-d][1]benzazepin-6-one | BrC=1C=CC2=C(C3=C(CC(N2)=O)C=NC(=N3)C)C1 | C13H10BrN3O
reactant | N,N-dimethyl-N′-(5-methyl-isoxazol-3-ylmethyl)-formamidine | CN(C=NCC1=NOC(=C1)C)C | C8H13N3O
product | 2-Bromo-11-methyl-7-(5-methyl-isoxazol-3-yl)-8H-4b,6,10,12-tetraaza-dibenzo[e,g]Azulene | BrC1=CC2=C(N3C=NC(=C3CC3=C2N=C(N=C3)C)C3=NOC(=C3)C)C=C1 | C19H14BrN5O
